US05102667
Trifluoroacetic acid (3 cc) is added to a solution of 4,4-bis-(3-fluorophenyl)cyclohexenone (90.3 g) and N-butoxymethyl-N-trimethylsilylmethylbenzylamine (123 cc) in dry dichloromethane (1,000 cc). The reaction mixture is brought to reflux and then stirred for 2 hours allowing the temperature to return to 25° C. and is then stirred for a further 15 minutes after addition of potassium carbonate (60 g). After filtering and concentrating the filtrate to dryness under reduced pressure (2.7 kPa), the crystallized residue is scraped with isopropyl ether, drained, washed and recrystallized from cyclohexane (300 cc). The crystals are drained, washed with cyclohexane (2×15 cc) and dried to give (3aRS,7aRS)-2-benzyl-7,7-bis-(3-fluorophenyl)-4-perhydroisoindolone (92 g) in the form of white crystals. m.p.=124° C.

reactant | Trifluoroacetic acid | 3 cc | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4,4-bis-(3-fluorophenyl)cyclohexenone | 90.3 g | FC=1C=C(C=CC1)C1(C=CC(CC1)=O)C1=CC(=CC=C1)F | C18H14F2O
reactant | N-butoxymethyl-N-trimethylsilylmethylbenzylamine | 123 cc | C(CCC)OCN(C[Si](C)(C)C)CC1=CC=CC=C1 | C16H29NOSi
reactant | potassium carbonate | 60 g | C([O-])([O-])=O.[K+].[K+]
solvent | dichloromethane | 1,000 cc | ClCCl | CH2Cl2
product | (3aRS,7aRS)-2-benzyl-7,7-bis-(3-fluorophenyl)-4-perhydroisoindolone | 92 g | C(C1=CC=CC=C1)N1CC2C(CCC(C2C1)=O)(C1=CC(=CC=C1)F)C1=CC(=CC=C1)F | C27H25F2NO
